US08633001B2
Production of (R)-1-ethyl hydrogen 3-t-butyloxycarbonylamino-3-ethoxycarbonylsuccinate (Hydrolysis with Pig Liver Esterase)
1.0 g of pig liver esterase produced by Sigma [PLE (27 kU/g), lyophilized product, product number: E3019] was dissolved in a 0.1 mol/L phosphate buffer adjusted to pH 7.5 (90 mL), and the solution was added with a solution of diethyl 2-t-butyloxycarbonylamino-2-ethoxycarbonylsuccinate (1.0 g) dissolved in acetonitrile (10 mL). The mixture was stirred at 30° C. for 4 hours to allow the reaction. After completion of the reaction, the reaction mixture was filtered by using a filtration aid (KC Floc 100) to remove the insoluble matter. The filtrate was cooled, and adjusted to pH 2 by adding 6 mol/L hydrochloric acid, then the objective substance was extracted with ethyl acetate, and the extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to obtain the title compound (1.0 g).

reactant | diethyl 2-t-butyloxycarbonylamino-2-ethoxycarbonylsuccinate | 1.0 g | C(C)(C)(C)OC(=O)NC(C(=O)OCC)(CC(=O)OCC)C(=O)OCC | C16H27NO8
solvent | phosphate | 0.1 mol/L | P(=O)([O-])([O-])[O-]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (R)-1-ethyl hydrogen 3-t-butyloxycarbonylamino-3-ethoxycarbonylsuccinate | 1.0 g | C(C)(C)(C)OC(=O)N[C@](CC(=O)OCC)(C(=O)O)C(=O)OCC | C14H23NO8
